US07176310B1
G. [4-[2-(4-Azidobenzoylamino)ethylamino]-5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]acetic acid ethyl ester
4-Azidobenzoyl chloride (67 mg, 0.37 mmol) was added to a solution of [4-(2-aminoethylamino)-5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]acetic acid ethyl ester (145 mg, 0.37 mmol) in DMF (2.0 mL). DIPEA (100 μL, 0.55 mmol, 1.5 eq) was then added to the reaction mixture and the acylation was allowed to proceed overnight at ambient temperature. The reaction mixture was concentrated by rotary evaporation and purified using flash chromatography (4 g silica gel, 10 mL/min flow rate) to yield the titled product (31 mg, 16%) as a clear glass. 1H NMR: (d6-DMSO) δ 10.23 (s, 1H), 8.67 (m, 1H), 8.55 (s, 1H), 7.81 (d, 2H), 7.62 (m, 2H), 7.13 (m, 3H), 4.07 (q, 2H), 3.97 (s, 2H), 3.60 (m, 2H), 3.42 (m, 2H), 1.14 (t, 3H); HPLC: Rt=4.36 min; MS (ESI): m/z 537.31 (M−H)−; IR (KBr): 2126 cm−1.

reactant | 4-Azidobenzoyl chloride | 0.37 mmol, 67 mg | N(=[N+]=[N-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClN3O
reactant | [4-(2-aminoethylamino)-5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]acetic acid ethyl ester | 0.37 mmol, 145 mg | C(C)OC(CSC1=NC=C(C(=N1)NCCN)C(NC1=CC=C(C=C1)F)=O)=O | C17H20FN5O3S
reactant | DIPEA | 0.55 mmol, 100 μL, 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | [4-[2-(4-Azidobenzoylamino)ethylamino]-5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]acetic acid ethyl ester | 31 mg, 16% | C(C)OC(CSC1=NC=C(C(=N1)NCCNC(C1=CC=C(C=C1)N=[N+]=[N-])=O)C(NC1=CC=C(C=C1)F)=O)=O | C24H23FN8O4S
